Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Nitroimidazole Derivatives / metronidazole
 
Attending: ___
 
Chief Complaint:
symptomatic fibroid uterus 
 
Major Surgical or Invasive Procedure:
total abdominal hysterectomy, bilateral salpingectomy, 
cystoscopy

 
History of Present Illness:
Ms. ___ is a ___ yo G2P2 with abnormal uterine bleeding in the
face of a known fibroid uterus. Because of her excessive vaginal
bleeding, she has has severe anemia that was treated with IV
Feraheme. Her ___ Hct was 32%. In additon, in the past, she
has been treated with IM Lupron; however, there was no
significant fibroid shrinkage.

She presents today for an endometrial biopsy prior to her
operative procedure.

 
Past Medical History:
Ob/gyn hx:
Menarche @ 10
Hx of dysmenorrhea/dyspareunia
P2 - c/s x 2
hx of abnormal pap smears
 most recent abnormal pap was on ___ --> ASCUS with +HR HPV
 colpo evaluation was benign
 ___ pap was negative for intraepithelial 
    neoplasia/malignancy ---neg HR HPV
sexuually active with male partner
fertility control: TL
denies ___
        
Medical hx:
Asthma - without intubation/hospitalization
Uterine fibroids
Abnormal pap smears
Excessive uterine bleeding
Anemia
Beta Thalassemia
Lactose intolerance
Hair loss
Fatigue
Lower back pain
Vertigo

Operative hx:
Right breast mass - core bx
Cesarean section x 2
Tubal ligation
Right femur bone and right knee surgeries

 
Social History:
___
Family History:
N/A
 
Physical Exam:
PHYSICAL EXAM AT OFFICE VISIT:
___ woman in NAD
Vital Signs sheet entries for ___: 
BP: 138/86. Weight: Patient declined. Height: 64.5.

Procedure:
Endometrial bx - procedure/risks were reviewed.
After her questions were answered, she signed the ___ consent.
Procedure time-out was done per the ___ protocol.
Ms. ___ was in ___ position.
Her uterine fundus was 1 fingerbreadth above her umbilicus.
The speculum was placed and the cervix was visualized.
2% Lidocaine gel was placed on the anterior cx lip which allowed
 for a more tolerable placement of the single tooth tenaculum.
The uterus sounded to 20.
The embx was performed, tissue was obtained, placed in formalin 
 and sent ot Path.
The tenaculum was released and hemostasis was assured.
All instruments were removed.

PHYSICAL EXAM AT DISCHARGE:
Vital signs: ___ ___ Temp: 97.9 PO BP: 130/78 Lying
HR: 85 RR: 18 O2 sat: 97% O2 delivery: RA 

Ins:
___ Total Intake: 1040ml PO Amt: 1040ml 
Outs:
___ Urine Amt: 1300ml 

General: NAD, comfortable
CV: RRR, normal s1 and s2, no m/r/g
Lungs: normal work of breathing, CTAB
Abdomen: soft, non-distended, minimally tender to palpation
without rebound or guarding, incision clean/dry/intact
Extremities: no edema, no TTP

After the treatment options for her fibroid uterus were reviewed
including hormonal therapy, UFE (she's not an ideal candidate
secondary to her fibroid calcifications), minor/major operative
procedures, she is requesting definite therapy - TAH+BS.

 
Pertinent Results:
___ 01:36PM BLOOD WBC-7.3 RBC-3.91 Hgb-8.6* Hct-28.1* 
MCV-72* MCH-22.0* MCHC-30.6* RDW-18.2* RDWSD-45.4 Plt ___
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing an Exam under anesthesia, total abdominal 
hysterectomy, and bilateral salpingectomy. Please see the 
operative report for full details.

*)Postoperative course 
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with a TAP block, IV morphine, 
and toradol. On post-operative day 1, her urine output was 
adequate, so her foley was removed, and she voided 
spontaneously. She was experiencing some lightheadedness and 
nausea with ambulation. However her vital signs were stable and 
within normal limits, she had negative orthostatics, adequate 
urine output and her hematocrit was stable at 28.1 Her 
lightheadedness resolved with hydration. Thought to be of 
multifactorial: opioid
medication side effect in setting of poor PO nutrition (had not
eaten all day) and anemia. There was low concern for active
bleeding.  Her diet was advanced without difficulty, and she was 
transitioned to PO oxycodone, ibuprofen, and acetaminophen. 
By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. However these milestones were 
met later in the evening, and patient decided she wanted to stay 
one extra night at the hospital before discharge given the late 
time.  She was then discharged home in stable condition on 
postoperative day 3 with outpatient follow-up scheduled.

*)Vertigo
Patient was continued on meclizine home dose. 

 
Medications on Admission:
albuterol
Qvar
fluticasone
ibuprofen
meclizine
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*60 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice daily 
Disp #*60 Capsule Refills:*2 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
do not drive or drink alcohol, causes sedation 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*50 Tablet Refills:*0 
5.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath or 
wheezing  
6.  Meclizine 12.5 mg PO TID:PRN vertigo  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Your staples will be removed at your follow-up visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___